US06514968B1
Preparation 48 9H-Carbazol-4-ol
To a mixture of 1,2,3,9-tetrahydro-4H-carbazol-4-one (6.02 g, 32.5 mmol) in 1:1 ethylene glycol: p-dioxane (100 mL) at 80° C. is added copper (II) chloride (21 g, 156.2 mmol). The mixture is heated for 20 minutes. The mixture is then partitioned between water and ethyl acetate. The layers are separated and the organic layer is washed three times with water (200 mL). The organic layer is dried over anhydrous sodium sulfate, filtered, and concentrated. The residue is dissolved in DMF (100 mL) to which is added lithium bromide (7.04 g, 81.25 mmol) and lithium carbonate (6.0 g, 81.25 mmol). The mixture is heated at 120° C. for 4.5 hours. The mixture is then partitioned between water and ether. The ether layer is washed three times with water (200 mL). The ether layer is dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography, silica gel (800 mL), using CH2Cl2 as eluent gave 1.1 g (18%) of the title compound; 1H NMR (CDCl3) δ5.26, 6.57, 7.01, 7.26, 7.41, 8.05, 8.26; Anal. Calcd for C12H9NO: C, 78.67; H, 4.95; N, 7.64. Found: C, 78.04; H, 4.94; N, 7.58.

reactant | 1,2,3,9-tetrahydro-4H-carbazol-4-one | 32.5 mmol, 6.02 g | C1CCC(C=2C3=CC=CC=C3NC12)=O | C12H11NO
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | lithium bromide | 81.25 mmol, 7.04 g | [Br-].[Li+]
reactant | lithium carbonate | 81.25 mmol, 6.0 g | C([O-])([O-])=O.[Li+].[Li+]
catalyst | copper (II) chloride | 156.2 mmol, 21 g | [Cu](Cl)Cl
solvent | p-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 9H-Carbazol-4-ol | 1.1 g, 18% | C1=CC=C(C=2C3=CC=CC=C3NC12)O | C12H9NO
